US07153961B2
Preparation of Intermediate 8-(4-methoxy-2-methylphenyl)-2,7-dimethylpyrazolo [1,5-a][1,3,5]triazin-4-ol.
p-Toluenesulfonic acid (29.2 g, 154 mmol) in acetonitrile (100 mL) was added to the reaction mixture described in Example 3 containing 5-amino-4-(4-methoxy-2-methylphenyl)-3-methylpyrazole-1-carboxylic acid amide. The resulting mixture was heated to 85–90° C. and trimethyl orthoacetate (160 mL, 1.26 mol) was added over 5 minutes during the heating. The reaction was held for about 45 minutes in the desired range with a total of 1.5 hours of heating time from the initiation of the heating cycle. Reaction progress was monitored by HPLC. Water (1.50 L) was added over 5 minutes with a temperature drop to about 60° C. The resulting mixture was cooled to about 20° C. over 1 hour and the product isolated by filtration. The yield was 136 g (78.0% with a purity of 99.5 A %).

reactant | p-Toluenesulfonic acid | 154 mmol, 29.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-amino-4-(4-methoxy-2-methylphenyl)-3-methylpyrazole-1-carboxylic acid amide | NC1=C(C(=NN1C(=O)N)C)C1=C(C=C(C=C1)OC)C | C13H16N4O2
reactant | trimethyl orthoacetate | 1.26 mol, 160 mL | C(C)(OC)(OC)OC | C5H12O3
reactant | Water | 1.50 L | O | H2O
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 8-(4-methoxy-2-methylphenyl)-2,7-dimethylpyrazolo [1,5-a][1,3,5]triazin-4-ol | COC1=CC(=C(C=C1)C=1C(=NN2C1N=C(N=C2O)C)C)C | C15H16N4O2
